US04518596
8-Benzyloxy-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 1 from 8-benzyloxy-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine (m.p.: 227°-229° C.) and piperazine.

reactant | 8-benzyloxy-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine | C(C1=CC=CC=C1)OC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)Cl | C17H16ClN5O2S
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-Benzyloxy-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine | C(C1=CC=CC=C1)OC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)N2CCNCC2 | C21H25N7O2S
